US05681842
Preparation of N-(4-Nitro-2-bromophenyl)methanesulfonamide:
Commercially available 2-bromo-4-nitroaniline (10.0 g, 46.07 mmol) was dissolved in DMF (250 mL) and NaH (60% in oil dispersion; 3.7 g, 92.15 mmol) added portion wise at 0° C. After 15 minutes, methanesulfonyl chloride (10.7 mL, 138.23 mmol) was added and the reaction was stirred overnight at ambient temperature. The reaction was quenched with 1M citric acid (100 mL) and extracted with ethyl acetate (3x). The combined extracts were washed with brine (2x), dried (MgSO4), filtered and concentrated in vacuo to yield a red oil that was purified by flash chromatography (silica gel; 20% EtOAc/Hexane) to afford the title compound as a yellow solid which was recrystallyzed from ether/hexanes. mp 148°-151° C.; 1H NMR (300 MHz, DMSO-d6) δ 3.24 (s, 3H), 7.70 (d; J=9 Hz; 1H), 8.23 (dd; J=9,3 Hz; 1H), 8.49 (d; J=3 Hz; 1H), 9.85 (br. s., 1H). MS (DCI-NH3) m/z 312 (M+NH4)+.

reactant | 2-bromo-4-nitroaniline | 46.07 mmol, 10.0 g | BrC1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | NaH | 92.15 mmol, 3.7 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 138.23 mmol, 10.7 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | N-(4-Nitro-2-bromophenyl)methanesulfonamide | [N+](=O)([O-])C1=CC(=C(C=C1)NS(=O)(=O)C)Br | C7H7BrN2O4S
